US04859670
5.54 g (31.1 mmol) of N-bromosuccinimide (NBS) and 6 mg of dibenzoyl peroxide were added to a solution of 5.53 g (30 mmol) of 4,5-dimethyl-2-phenylpyrimidine in 110 ml of CCl4, and the mixture was warmed to the boiling point for 5 minutes with stirring and irradiation with a daylight lamp with increased short-wave content (type: Osram UltraVitalux, 300 W, GUR 53). The NBS had then been consumed and converted into specifically light succinimide. It was filtered off under suction at room temperature and washed with a little CCl4. The filtrate was evaporated in vacuo, the residue was dissolved in 100 ml of diisopropyl ether, the solution was clarified over kieselguhr, and the clear filtrate was again evaporated in vacuo. 7.70 g, 94.5% purity according to the 1H NMR spectrum, of 5-bromomethyl-4-methyl-2-phenylpyrimidine (=92% yield), melting point 65°-66° C., were obtained, analysis: C12H11BrN2 (MW 263.15) calc. C 54.77, H 4.21, Br 30.37, N 10.65; found C 53.5, H 3.9, Br 31.3, N 10.0%.

reactant | N-bromosuccinimide | 31.1 mmol, 5.54 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | dibenzoyl peroxide | 6 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | 4,5-dimethyl-2-phenylpyrimidine | 30 mmol, 5.53 g | CC1=NC(=NC=C1C)C1=CC=CC=C1 | C12H12N2
solvent | CCl4 | 110 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 5-bromomethyl-4-methyl-2-phenylpyrimidine | 92% yield | BrCC=1C(=NC(=NC1)C1=CC=CC=C1)C | C12H11BrN2
